US06114358
1-Methylpyrrole-2-carbaldehyde (10 g, 91.6 mmol) was dissolved in acetonitrile (100 ml) and cooled to -45° C. Chlorosulfonyl isocyanate (38.9 g, 274.9 mmol) in acetonitrile (40 ml) was added dropwise over 40 min. The mixture was then stirred at room temperature for 12 h. After dropwise addition of dimethylformamide (35 ml), the mixture was heated at 50° C. for 1 h. After cooling to room temperature, the reaction mixture was added to ice (200 ml) and 2N sodium hydroxide solution (286 ml). The precipitate which formed was filtered off with suction. The filtrate were [sic] extracted with diethyl ether. The combined ether phases were washed with dilute sodium bicarbonate solution and water until neutral and dried over sodium sulfate. The solvent was distilled off under water pump vacuum, and the residue was combined with the previously obtained precipitate. Recrystallization from petroleum ether afforded 4-cyano-1-methylpyrrole-2-carbaldehyde (4.3 g) (see, for example, C. E. Loader et al. Can. J. Chem. 59 (1981) 2673-6).

reactant | 1-Methylpyrrole-2-carbaldehyde | 91.6 mmol, 10 g | CN1C(=CC=C1)C=O | C6H7NO
reactant | Chlorosulfonyl isocyanate | 274.9 mmol, 38.9 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
reactant | sodium hydroxide | 2N, 286 ml | [OH-].[Na+]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 4-cyano-1-methylpyrrole-2-carbaldehyde | 4.3 g | C(#N)C=1C=C(N(C1)C)C=O | C7H6N2O
